US07427632B2
4-(4-Isopropylpiperazin-1-yl)-1-phenyl-butylamine
To a solution of 1-(4-isopropylpiperazin-1-yl)-4-phenylbutane-1,4-dione 4-oxime (625 mg, 2.0 mmol) in 10 mL of THF was slowly added lithium aluminum hydride (250 mg, 6.6 mmol). The reaction flask was heated at 70° C. for 4 h after which time the flask was cooled to 0 C and the reaction was quenched by slow addition of water and 1 N sodium hydroxide. The biphasic mixture was filtered through a pad of diatomaceous earth, and the filtered solution was concentrated to dryness to afford 536 mg (98%) of the title compound as a crude residue that was used without further purification.

reactant | 1-(4-isopropylpiperazin-1-yl)-4-phenylbutane-1,4-dione 4-oxime | 2.0 mmol, 625 mg | C(C)(C)N1CCN(CC1)C(CCC(=NO)C1=CC=CC=C1)=O | C17H25N3O2
reactant | lithium aluminum hydride | 6.6 mmol, 250 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(4-Isopropylpiperazin-1-yl)-1-phenyl-butylamine | 536 mg, 98% | C(C)(C)N1CCN(CC1)CCCC(C1=CC=CC=C1)N | C17H29N3
